US08207178B2
A dried flask under argon was charged with methyl 4-(4-(4-bromo-2,6-dimethylphenylamino)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile (4.3 g, 9.5 mmol) dissolved in anhydrous DMF (95 ml) followed by tert-butoxybis(dimethylamino)methane (2.4 ml, 11.4 mmol). The reaction mixture was heated to 60° C. and stirred overnight under argon. Upon completion the reaction was cooled to ambient temperature, concentrated to half volume, and quenched with H2O (100 ml). The aqueous solution was extracted with ethyl acetate (3×70 ml) and the collected organic fractions were washed with brine (100 ml), dried with MgSO4, filtered and concentrated. Silica gel chromatography (ethyl acetate: Hexanes=50:50) yielded (E)-4-(4-(4-bromo-2,6-dimethylphenylamino)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile (3.21 g, 67%) as a brown solid. m/z=508 [M+1].

reactant | methyl 4-(4-(4-bromo-2,6-dimethylphenylamino)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile | 9.5 mmol, 4.3 g | CC1=C(C#N)C=CC(=C1)NC1=NC(=C(C(=N1)NC1=C(C=C(C=C1C)Br)C)[N+](=O)[O-])C | C21H19BrN6O2
reactant | tert-butoxybis(dimethylamino)methane | 11.4 mmol, 2.4 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 95 ml | CN(C)C=O | C3H7NO
product | (E)-4-(4-(4-bromo-2,6-dimethylphenylamino)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile | 3.21 g, 67% | BrC1=CC(=C(C(=C1)C)NC1=NC(=NC(=C1[N+](=O)[O-])\C=C\N(C)C)NC1=CC=C(C#N)C=C1)C | C23H22BrN7O2
